US07661577B2
78.5 g (0.80 mol) of potassium acetate, 5.0 g (0.08 mol) of acetic acid and 123.7 g (0.80 mol) of 2-chloroacetophenone was heated under reflux in 500 ml of ethanol for 6 hours. After the completion of heating, the reaction solution was cooled to room temperature, precipitated potassium chloride was filtered off, and ethanol was evaporated off under reduced pressure, giving an oily and caramel-like substance. The obtained oily substance was poured into 1 liter of water and the precipitated yellowish-brown crystalline solid was filtered off, followed by recrystallization from methanol, giving 113.1 g (0.635 mol, 79.3% yield) 2-acetoxyacetophenone.

reactant | potassium acetate | 0.80 mol, 78.5 g | C(C)(=O)[O-].[K+]
reactant | acetic acid | 0.08 mol, 5.0 g | C(C)(=O)O | C2H4O2
reactant | 2-chloroacetophenone | 0.80 mol, 123.7 g | ClCC(=O)C1=CC=CC=C1 | C8H7ClO
reactant | water | 1 liter | O | H2O
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 2-acetoxyacetophenone | 0.635 mol, 113.1 g, 79.3% yield | C(C)(=O)OCC(=O)C1=CC=CC=C1 | C10H10O3
